US05750550
A mixture of the sodium salt of 2-carboxy-5-hydroxyfuran (3.33 g, 20.28 mmol), 4-methoxybenzyl chloride (3.29 g, 21.0 mmol) and DMF (20 mL) was heated at 70° C. for 5.5 hours. The reaction mixture was poured into ice-water, extracted with ethyl acetate and concentrated to afford 6.3 g of crude product. The crude product was combined with 2.7 g of crude product from a similar experimental run and the mixture was purified by column chromatography on silica gel eluting with 2.5% EtOAc/CH2 Cl2 to 50% EtOAc/CH2Cl2 to afford 5.63 g of 2-(4-methoxyphenylmethyl oxycarbonyl)-5-hydroxymethylfuran.

reactant | sodium | [Na] | Na
reactant | 2-carboxy-5-hydroxyfuran | 20.28 mmol, 3.33 g | C(=O)(O)C=1OC(=CC1)O | C5H4O4
reactant | 4-methoxybenzyl chloride | 21.0 mmol, 3.29 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-methoxyphenylmethyl oxycarbonyl)-5-hydroxymethylfuran | 5.63 g | COC1=CC=C(C=C1)COC(=O)C=1OC(=CC1)CO | C14H14O5
